US04188396
A solution of 23 g of crude N-acetyl-4-(2-nitro-4-acetylphenyl)-piperidine in 250 ml of ethanol is hydrogenated with 4.5 g of palladium (5%) on barium carbonate (decomposed) until 3 equivalents of hydrogen have been absorbed. The catalyst is then filtered off, and the filtrate is concentrated in vacuo to dryness. The crude N-acetyl-4-(2-amino-4-acetyl-phenyl)-piperidine thus obtained is purified by way of the hydrochloride, m.p. 220°-222° (from ethanol).

reactant | N-acetyl-4-(2-nitro-4-acetylphenyl)-piperidine | 23 g | C(C)(=O)N1CCC(CC1)C1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C15H18N2O4
reactant | hydrogen | 3 equivalents | [H][H] | H2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium | 4.5 g | [Pd] | Pd
product | N-acetyl-4-(2-amino-4-acetyl-phenyl)-piperidine | C(C)(=O)N1CCC(CC1)C1=C(C=C(C=C1)C(C)=O)N | C15H20N2O2
